US07915261B2
4 M hydrogen chloride/EtOAc (4 ml) was added to an EtOAc (9 ml) solution of tert-butyl 4-(2-{3-[(aminocarbonyl)amino]phenyl}ethyl)-1-piperidinecarboxylate (227 mg), followed by stirring at room temperature for 3 hours. The solvent was evaporated under reduced pressure to obtain 1-{3-[2-(4-piperidyl)ethyl]phenyl}urea hydrochloride (185 mg).

reactant | hydrogen chloride EtOAc | 4 M, 4 ml | Cl.CCOC(=O)C
reactant | tert-butyl 4-(2-{3-[(aminocarbonyl)amino]phenyl}ethyl)-1-piperidinecarboxylate | 227 mg | NC(=O)NC=1C=C(C=CC1)CCC1CCN(CC1)C(=O)OC(C)(C)C | C19H29N3O3
solvent | EtOAc | 9 ml | CCOC(=O)C | C4H8O2
product | 1-{3-[2-(4-piperidyl)ethyl]phenyl}urea hydrochloride | 185 mg | Cl.N1CCC(CC1)CCC=1C=C(C=CC1)NC(=O)N | InChI=1S/C14H21N3O.ClH/c15-14(18)17-13-3-1-2-12(10-13)5-4-11-6-8-16-9-7-11;/h1-3,10-11,16H,4-9H2,(H3,15,17,18);1H
